US04863942
In the course of approximately 5 minutes a solution of 12.3 ml of chloro-oxalic acid ethyl ester in 30 ml of methylene chloride is added dropwise to a solution, cooled to 0° C., of 43.6 g (100 mmol) of 3-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)-propoxy]-4-bromo-6-methylaniline and 15.3 ml of triethylamine in 400 ml of methylene chloride and the whole is then stirred for a further 90 minutes at room temperature. The reaction mixture is poured onto ice-water and the organic phase is separated off, washed with water, dried over sodium sulphate and concentrated under reduced pressure. Crystallisation from ethyl acetate/ether/petroleum ether yields N-{3-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)-propoxy]-4-bromo-6-methylphenyl}-oxamic acid ethyl ester having a melting point of 100°-102°.

reactant | chloro-oxalic acid ethyl ester | 12.3 ml | C(C)OC(C(=O)Cl)=O | C4H5ClO3
reactant | 3-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)-propoxy]-4-bromo-6-methylaniline | 100 mmol, 43.6 g | C(C)(=O)C1=C(C(=C(OCCCOC=2C=C(N)C(=CC2Br)C)C=C1)CCC)O | C21H26BrNO4
reactant | triethylamine | 15.3 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | N-{3-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)-propoxy]-4-bromo-6-methylphenyl}-oxamic acid ethyl ester | C(C)OC(C(=O)NC1=CC(=C(C=C1C)Br)OCCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)=O | C25H30BrNO7
